US05910506
In 13.6 ml of dry dimethylformamide was dissolved 4.75 g (13.6 mmol)of 2-chloromethyl-5-(3,5-dichlorophenylthio)-4-isopropyl-1-methyl-1H-imidazole (28a)and 1.0 g of potassium cyanide (97.5%), and the mixture was stirred with heating at 70 to 75° C. for 24 hours. The reaction mixture was concentrated under reduced pressure, and to the residue, water was added. The mixture was extracted with diethyl ether, and the organic layer was washed with water 3 times and dried over magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was fractionated by silica gel chromatography (ethyl acetate:methylene chloride=1:9 to 4)to obtain 2.43 g of [5-(3,5-dichlorophenylthio)-4-isopropyl-1-methyl-1H-imidazol-2-yl]acetonitrile (Compound I-80a)(yield 53%). mp 103-105° C.

reactant | 2-chloromethyl-5-(3,5-dichlorophenylthio)-4-isopropyl-1-methyl-1H-imidazole | 13.6 mmol, 4.75 g | ClCC=1N(C(=C(N1)C(C)C)SC1=CC(=CC(=C1)Cl)Cl)C | C14H15Cl3N2S
reactant | potassium cyanide | 1.0 g | [C-]#N.[K+]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 13.6 ml | CN(C=O)C | C3H7NO
product | [5-(3,5-dichlorophenylthio)-4-isopropyl-1-methyl-1H-imidazol-2-yl]acetonitrile | 2.43 g, yield 53% | ClC=1C=C(C=C(C1)Cl)SC1=C(N=C(N1C)CC#N)C(C)C | C15H15Cl2N3S
